2192-10-26 05:33:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Cardiac enzymes negative x3
   - CXR for pneumothorax to monitor progress
   - CT surgery (recs?)
   - Potential cardiology consult given cardiac arrest of unclear etiology
   - Fluids: +2.8L
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 15 mcg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-10-26**] 05:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.3
C (99.1
   HR: 66 (59 - 68) bpm
   BP: 106/46(61) {90/38(51) - 142/101(107)} mmHg
   RR: 17 (14 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
             Total In:
                                                                  3,055 mL
                                                                     65 mL
   PO:
             TF:
   IVF:
                                                                  1,055 mL
                                                                     65 mL
   Blood products:
   Total out:
                                                                    260 mL
                                                                    260 mL
   Urine:
                                                                    200 mL
                                                                    220 mL
   [**Known lastname **]:
   Stool:
   Drains:
   Balance:
                                                                  2,795 mL
                                                                   -195 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 172 (172 - 172) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 60
   PIP: 21 cmH2O
   Plateau: 16 cmH2O
   SpO2: 100%
   ABG: 7.37/43/92.[**Numeric Identifier 132**]/24/0
   Ve: 5.5 L/min
   PaO2 / FiO2: 232
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube, sub q air
   tracking from face through chest
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Absent), (Left DP pulse: Absent)
   Respiratory / Chest: (Breath Sounds: Wheezes : , Diminished: ), exam
   limited by sub q air.  prolonged expiration phase.
   Abdominal: distended, Non-tender, Bowel sounds present, abdominal
   muscle use during expiration
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing.  Cool extremities, but faint pulses
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Cool, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: pain, Moving all 4 extremities, Sedated, Tone: Normal
   Labs / Radiology
   219 K/uL
   9.2 g/dL
   144 mg/dL
   0.7 mg/dL
   24 mEq/L
   4.1 mEq/L
   18 mg/dL
   108 mEq/L
   141 mEq/L
   28.6 %
   10.6 K/uL
        [image002.jpg]
   Lactate- 1.1.  CK-354, CK-MB 8, TnT- <0.01
   Radiology- CTA negative for PE
                             [**2192-10-25**]  08:35 PM
                             [**2192-10-26**]  03:02 AM
                             [**2192-10-26**]  04:37 AM
   WBC
   11.5
   10.6
   Hct
   32.8
   28.6
   Plt
   232
   219
   Cr
   0.8
   0.7
   TropT
   0.02
   <0.01
   TCO2
   26
   Glucose
   169
   144
   Other labs: PT / PTT / INR:12.9/28.4/1.1, CK / CKMB /
   Troponin-T:354/8/<0.01, ALT / AST:17/24, Alk Phos / T Bili:58/0.3,
   Differential-Neuts:83.7 %, Lymph:11.6 %, Mono:4.1 %, Eos:0.6 %,
   Albumin:3.5 g/dL, LDH:256 IU/L, Ca++:7.8 mg/dL, Mg++:1.9 mg/dL, PO4:3.8
   mg/dL
   Assessment and Plan
   A/P: [**Age over 90 211**] yo with HTN, DM2, hx of MI/CVA found down at his nursing home
   with apparent cardiac arrest requiring CPR which resulted in rib
   fracture, PTX, chest tubes.
   .
   # ?Cardiac arrest: He was found down and reportedly required CPR.
   However, by EMS arrival, he had a perfusing rhythm.  Unclear how long
   he was down, and if he ever truly arrested.  Possible diagnoses include
   PE, structural disease or event leading to arrhythmia, bradyarrhythmia,
   seizure.  EKG showing evidence of structural heart disease.
   - monitor on tele
   - ROMI
   -Echo
   -Morning EKG
   -If echo or EKG show new findings, consult cards
   - gather collateral info
   -Continue ASA
   .
   # Pneumothorax: s/p chest tube.  CT [**Doctor First Name 213**] involved.  Will likely be long
   recuperation if multiple contiguous rib fractures have led to damage to
   chest wall dynamics.
   - limit pressure support
   - follow CXR
   - CT [**Doctor First Name 213**] recs
   -bolus fentanyl in small doses to ease pain and aid in weaning
   -may require early trach
   .
   # Intubation: intubated for airway protection after seeing vomit in
   oropharynx.
   - vent precautions
   .
   # Rib fractures: pain control
   .
   # CAD: s/p cardiac arrest of unclear etiology, ? cardiac arrhythmia [**1-21**]
   structural heart disease, or MI.
   - trend CEs
   - tele
   - consider cards involvement
   .
   # HTN: Hold home htn medications
   .
   # DM2: holding oral antihyperglycemics. SSI
   .
   # chronic conjunctivitis: cont ocular erythromycin
   .
   # PPx: H2 blocker, bowel regimen, sc heparin
   .
   # Dispo: ICU level care
   - family meeting
   .
   # Code: presumed full
   ICU Care
   Lines:
   18 Gauge - [**2192-10-25**] 07:05 PM
   20 Gauge - [**2192-10-25**] 07:05 PM

2192-10-27 05:21:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2192-10-26**] 02:05 PM
   - Head CT -
   - ECHO: LVEF > 55%, grossly normal biventricular systolic fxn, but
   limited study
   - Lipitor started
   - Family would like to meet with medical team after 3 pm today
   - Tube feeds started
   - Versed ordered for agitation
   - Needs NGT prior to extubation
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 20 mcg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2192-10-26**] 08:10 AM
   Midazolam (Versed) - [**2192-10-26**] 09:45 PM
   Heparin Sodium (Prophylaxis) - [**2192-10-27**] 04:13 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-10-27**] 05:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.2
C (98.9
   HR: 78 (63 - 88) bpm
   BP: 108/43(60) {87/37(50) - 159/102(122)} mmHg
   RR: 15 (14 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
             Total In:
                                                                    462 mL
                                                                    195 mL
   PO:
             TF:
                                                                     27 mL
                                                                     81 mL
   IVF:
                                                                    325 mL
                                                                     64 mL
   Blood products:
   Total out:
                                                                  1,027 mL
                                                                    240 mL
   Urine:
                                                                    867 mL
                                                                    210 mL
   [**Known lastname **]:
   Stool:
   Drains:
   Balance:
                                                                   -565 mL
                                                                    -45 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 283 (283 - 545) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 180
   PIP: 17 cmH2O
   Plateau: 14 cmH2O
   SpO2: 100%
   ABG: ///27/
   Ve: 6.6 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube, sub q air
   tracking from face through chest
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Absent), (Left DP pulse: Absent)
   Respiratory / Chest: (Breath Sounds: Wheezes : , Diminished: ), exam
   limited by sub q air.  prolonged expiration phase.
   Abdominal: distended, Non-tender, Bowel sounds present, abdominal
   muscle use during expiration
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing.  Cool extremities, but faint pulses
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Cool, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: pain, Moving all 4 extremities, Sedated, Tone: Normal
   Labs / Radiology
   201 K/uL
   8.5 g/dL
   136 mg/dL
   0.7 mg/dL
   27 mEq/L
   3.7 mEq/L
   19 mg/dL
   109 mEq/L
   142 mEq/L
   26.1 %
   8.2 K/uL
        [image002.jpg]
                             [**2192-10-25**]  08:35 PM
                             [**2192-10-26**]  03:02 AM
                             [**2192-10-26**]  04:37 AM
                             [**2192-10-27**]  02:52 AM
   WBC
   11.5
   10.6
   8.2
   Hct
   32.8
   28.6
   26.1
   Plt
   232
   219
   201
   Cr
   0.8
   0.7
   0.7
   TropT
   0.02
   <0.01
   TCO2
   26
   Glucose
   169
   144
   136
   Other labs: PT / PTT / INR:12.9/28.4/1.1, Ca++:7.9 mg/dL, Mg++:2.2
   mg/dL, PO4:2.6 mg/dL; ABG 7.39 / 47 / 111 / 30
   Assessment and Plan
   A/P: [**Age over 90 211**] yo with HTN, DM2, hx of MI/CVA found down at his nursing home
   with apparent cardiac arrest requiring CPR which resulted in rib
   fracture, PTX, chest tubes.
   .
   # ?Cardiac arrest: He was found down and reportedly required CPR.
   However, by EMS arrival, he had a perfusing rhythm.  Unclear how long
   he was down, and if he ever truly arrested.  Possible diagnoses include
   PE, structural disease or event leading to arrhythmia, bradyarrhythmia,
   seizure.  EKG showing evidence of structural heart disease.  ECHO
   unremarkable, but limited study due to subcutaneous air.  Cardiac
   enzymes did not increase.  Tele monitoring unenlightening.  Unclear why
   this patient arrested or if he ever did.
   - If echo or EKG show new findings, consider cards consult
   - gather collateral info
   -Continue ASA
   .
   # Pneumothorax: s/p chest tube.  CT [**Doctor First Name 213**] involved.  Will likely be long
   recuperation if multiple contiguous rib fractures have led to damage to
   chest wall dynamics.
   - limit pressure support
   - follow CXR
   - CT [**Doctor First Name 213**] recs
   -bolus fentanyl in small doses to ease pain and aid in weaning
   -may require early trach
   .
   # Intubation: intubated for airway protection after seeing vomit in
   oropharynx.
   - vent precautions
   .
   # Rib fractures: pain control
   .
   # CAD: s/p cardiac arrest of unclear etiology, ? cardiac arrhythmia [**1-21**]
   structural heart disease, or MI.
   - trend CEs
   - tele
   - consider cards involvement
   .
   # HTN: Hold home htn medications initially, but will consider
   restarting them gradually if patient become hypertensive.
   .
   # DM2: holding oral antihyperglycemics. SSI
   .
   # chronic conjunctivitis: cont ocular erythromycin
   .
   # PPx: H2 blocker, bowel regimen, sc heparin
   .
   # Dispo: ICU level care
   - family meeting
   .
   # Code: presumed full
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2192-10-25**] 07:05 PM
   20 Gauge - [**2192-10-25**] 07:05 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   MICU attending addendum
   I saw and examined the patient and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points: [**Age over 90 211**] yo M w/ CVA, DM, s/p PEA arrest c/b CPR,
   intubation, CT tube for PTX and rib fxs. Head CT negative. Stable
   overnight. TFs restarted.
   Exam notable for Tm 99.8 Tc 98.9 BP 137/57  HR 63-88 RR 15 with sat
   100 on VAC 400 x14 PEEP 5 0.4 ABG 7.39/47/111   Thin M, PERRL, EMOI,
   over-breathing vent, withdraws to pain. Lungs CTA x scant exp wheeze, +
   crepitus, RR. Soft NT +BS. No le edema. Labs notable for WBC 8.2K, HCT
   26.1, K+ 3.7, Cr 0.7. CXR with SC air, no PTX,. L CT in place, ET in
   position, small eff L.
   Agree with plan to continue supportive care.  Remains with unclear
   etiology of arrest. Echo limited given sq air. CEs flat. Will continue
   ASA  and statin.  Continueto monitor neuron exam. Continue to manage
   respiratory failure with slow PSV wean and arterial line for
   monitoring. Difficult wean given flale chest from rib fx and pain as
   limiting factors. Will use bolus fentanyl for pain control and CT
   drainage for PTX / possible flail chest mechanics. Discuss with CT
   surgery re CT--consider change to water seal with close monitoring.
   Increase bowel regimen given distention and narcotics. Family mtg to
   update and discuss goals of care. Remainder of plan as outlined above.
   Patient is critically ill
   Total time: 40 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 215**] [**Last Name (NamePattern1) 216**], MD
   on:[**2192-10-27**] 07:00 PM ------

2192-10-28 05:21:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Family meeting occurred.
   Pt was unable to be weaned from AC yesterday due to difficulty
   breathing with flail chest.
   No bowel movements since admission. Minimal drainage from chest tube to
   wall suction.
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-10-28**] 05:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.1
C (98.8
   HR: 77 (77 - 99) bpm
   BP: 102/42(57) {90/42(53) - 136/85(89)} mmHg
   RR: 16 (13 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
             Total In:
                                                                    970 mL
                                                                    292 mL
   PO:
             TF:
                                                                    432 mL
                                                                    225 mL
   IVF:
                                                                    287 mL
                                                                     67 mL
   Blood products:
   Total out:
                                                                    915 mL
                                                                    235 mL
   Urine:
                                                                    865 mL
                                                                    235 mL
   [**Known lastname **]:
   Stool:
   Drains:
   Balance:
                                                                     55 mL
                                                                     57 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 184 (184 - 184) mL
   RR (Set): 14
   RR (Spontaneous): 1
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 138
   PIP: 15 cmH2O
   Plateau: 13 cmH2O
   SpO2: 100%
   ABG: 7.39/47/111/26/2
   Ve: 6.3 L/min
   PaO2 / FiO2: 277
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube, sub q air
   tracking from face through chest
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Absent), (Left DP pulse: Absent)
   Respiratory / Chest: (Breath Sounds: Wheezes : , Diminished: ), exam
   limited by sub q air.  prolonged expiration phase.
   Abdominal: distended, Non-tender, Bowel sounds present, abdominal
   muscle use during expiration
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing.  Cool extremities, but faint pulses
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Cool, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: pain, Moving all 4 extremities, Sedated, Tone: Normal
   Labs / Radiology
   153 K/uL
   7.9 g/dL
   169 mg/dL
   0.8 mg/dL
   26 mEq/L
   4.5 mEq/L
   20 mg/dL
   108 mEq/L
   140 mEq/L
   25.0 %
   8.4 K/uL
        [image002.jpg]
                             [**2192-10-25**]  08:35 PM
                             [**2192-10-26**]  03:02 AM
                             [**2192-10-26**]  04:37 AM
                             [**2192-10-27**]  02:52 AM
                             [**2192-10-27**]  06:13 AM
                             [**2192-10-28**]  04:27 AM
   WBC
   11.5
   10.6
   8.2
   8.4
   Hct
   32.8
   28.6
   26.1
   25.0
   Plt
   232
   219
   201
   153
   Cr
   0.8
   0.7
   0.7
   0.8
   TropT
   0.02
   <0.01
   TCO2
   26
   30
   Glucose
   169
   144
   136
   169
   Other labs: PT / PTT / INR:12.9/28.4/1.1, CK / CKMB /
   Troponin-T:354/8/<0.01, ALT / AST:17/24, Alk Phos / T Bili:58/0.3,
   Differential-Neuts:83.7 %, Lymph:11.6 %, Mono:4.1 %, Eos:0.6 %, Lactic
   Acid:1.1 mmol/L, Albumin:3.5 g/dL, LDH:256 IU/L, Ca++:8.1 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   A/P: [**Age over 90 211**] yo with HTN, DM2, hx of MI/CVA found down at his nursing home
   with apparent cardiac arrest requiring CPR which resulted in rib
   fracture, PTX, chest tubes.
   .
   # ?Cardiac arrest: He was found down and reportedly required CPR.
   However, by EMS arrival, he had a perfusing rhythm.  Unclear how long
   he was down, and if he ever truly arrested.  Possible diagnoses include
   PE, structural disease or event leading to arrhythmia, bradyarrhythmia,
   seizure.  EKG showing evidence of structural heart disease.  ECHO
   unremarkable, but limited study due to subcutaneous air.  Cardiac
   enzymes did not increase.  Tele monitoring unenlightening.  Unclear why
   this patient arrested or if he ever did.  Echo showed normal systolic
   function although very limited study.
   - aspirin, continue to monitor
   .
   # Pneumothorax: s/p chest tube.  CT [**Doctor First Name 213**] involved.  Will likely be long
   recuperation if multiple contiguous rib fractures have led to damage to
   chest wall dynamics.  Will discuss with CT [**Doctor First Name 213**] if CT can be pulled
   prior to extubation.
   - follow CXR daily
   - CT [**Doctor First Name 213**] to see today
   -bolus fentanyl in small doses to ease pain and aid in weaning
   .
   # Intubation: intubated for airway protection after seeing vomit in
   oropharynx.
   - vent precautions
   - attempt to wean to PS today
   .
   # Rib fractures: pain control
   .
   # HTN: Hold home htn medications initially, but will consider
   restarting them gradually if patient become hypertensive.
   - currently hypotensive, will continue to monitor
   .
   # DM2: holding oral antihyperglycemics. SSI
   .
   # chronic conjunctivitis: cont ocular erythromycin
   .
   # PPx: H2 blocker, bowel regimen, sc heparin
   .
   # Dispo: ICU level care
   .
   # Code: presumed full
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2192-10-28**] 01:01 AM 45 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2192-10-25**] 07:05 PM
   20 Gauge - [**2192-10-25**] 07:05 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points: [**Age over 90 211**] yo M w/ CVA, DM, s/p PEA arrest c/b CPR,
   intubation, CT tube for PTX and rib fxs. Head CT negative. Uneventful
   overnight.
   Exam notable for Tm 99.7 Tc 98.8 BP 102/42  HR 77  RR 16 with sat
   100% on VAC 400 x 14 PEEP 5   FIO2  0.4  ABG 7.39/47/111 ([**10-27**])  Thin
   M, PERRL, EMOI, over-breathing vent, Lungs CTA, + crepitus--improving,
   RR. Soft NT +BS. No le edema. Labs notable for WBC 8.4K, HCT 25, K+
   4.5, Cr 0.8; CXR with SC air--improving, no PTX, L CT in place, ET in
   position, small eff L; MRSA swab +
   Agree with plan to continue supportive care.  Remains with unclear
   etiology of cardiac arrest--> Echo limited given sq air but with EF >
   50%. CEs flat. Will continue ASA and statin.  Continue to manage
   respiratory failure with slow PSV wean and arterial line for
   monitoring. Wean limited by flale chest from rib fx and pain. Continue
   bolus fentanyl for pain control and reattempt transition to PSV.  CT
   drainage for PTX --lung reexpanded on cxr, continue to follow daily, CT
   [**Doctor First Name 213**] following, will likely transition to waterseal today, CT drainage
   is < 100 cc /24 hr. Will increase bowel regimen given distention and
   narcotics--hypoactive but + BS.  Hct slowly decreasing--will heme check
   stools.  Has no evidence of active bleeding.  Remainder of plan as
   outlined above.
   Patient is critically ill
   Total time: 35 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 215**] [**Last Name (NamePattern1) 216**], MD
   on:[**2192-10-28**] 03:50 PM ------

2192-10-29 05:03:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - CT surgery placed CT to water seal and recommended evening CXR follow
   up.
   - Placed on MRSA precautions.
   - Weaning vent gradually.
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Fentanyl - [**2192-10-29**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-10-29**] 05:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.6
C (99.6
   HR: 120 (77 - 120) bpm
   BP: 160/63(87) {96/42(56) - 160/77(97)} mmHg
   RR: 25 (13 - 37) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
             Total In:
                                                                  1,550 mL
                                                                    290 mL
   PO:
             TF:
                                                                  1,070 mL
                                                                    227 mL
   IVF:
                                                                    300 mL
                                                                     63 mL
   Blood products:
   Total out:
                                                                    935 mL
                                                                    250 mL
   Urine:
                                                                    885 mL
                                                                    250 mL
   [**Known lastname **]:
   Stool:
   Drains:
   Balance:
                                                                    615 mL
                                                                     40 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 14
   RR (Spontaneous): 4
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 20 cmH2O
   Plateau: 15 cmH2O
   SpO2: 100%
   ABG: ////
   Ve: 4.9 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube, sub q air
   tracking from face through chest
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Absent), (Left DP pulse: Absent)
   Respiratory / Chest: (Breath Sounds: Wheezes : , Diminished: ), exam
   limited by sub q air.   Wheezes, prolonged expiration phase.
   Abdominal: distended, Non-tender, Bowel sounds present, abdominal
   muscle use during expiration
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing.  Cool extremities, but faint pulses
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Cool, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: pain, Moving all 4 extremities, Sedated, Tone: Normal
   Labs / Radiology
   207 K/uL
   7.2 g/dL
   177 mg/dL
   0.7 mg/dL
   31 mEq/L
   4 mEq/L
   19 mg/dL
   102 mEq/L
   140 mEq/L
   22.4 %
   8.1 K/uL
        [image002.jpg]
                             [**2192-10-25**]  08:35 PM
                             [**2192-10-26**]  03:02 AM
                             [**2192-10-26**]  04:37 AM
                             [**2192-10-27**]  02:52 AM
                             [**2192-10-27**]  06:13 AM
                             [**2192-10-28**]  04:27 AM
   WBC
   11.5
   10.6
   8.2
   8.4
   Hct
   32.8
   28.6
   26.1
   25.0
   Plt
   232
   219
   201
   153
   Cr
   0.8
   0.7
   0.7
   0.8
   TropT
   0.02
   <0.01
   TCO2
   26
   30
   Glucose
   169
   144
   136
   169
   Other labs: PT / PTT / INR:12.9/28.4/1.1, CK / CKMB /
   Troponin-T:354/8/<0.01, ALT / AST:17/24, Alk Phos / T Bili:58/0.3,
   Differential-Neuts:83.7 %, Lymph:11.6 %, Mono:4.1 %, Eos:0.6 %, Lactic
   Acid:1.1 mmol/L, Albumin:3.5 g/dL, LDH:256 IU/L, Ca++:8 mg/dL, Mg++:1.8
   mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   A/P: [**Age over 90 211**] yo with HTN, DM2, hx of MI/CVA found down at his nursing home
   with apparent cardiac arrest requiring CPR which resulted in rib
   fracture, PTX, chest tubes.
   .
   # ?Cardiac arrest: He was found down and reportedly required CPR.
   However, by EMS arrival, he had a perfusing rhythm.  Unclear how long
   he was down, and if he ever truly arrested.  Possible diagnoses include
   PE, structural disease or event leading to arrhythmia, bradyarrhythmia,
   seizure.  EKG at admission showed RBBB of unclear origin, indicating
   possible structural heart disease.  ECHO unremarkable and showed good
   systolic function, but limited study due to subcutaneous air.  Cardiac
   enzymes did not increase.  Tele monitoring unenlightening.  Unclear why
   this patient arrested or if he ever did
   -          aspirin, continue to monitor
   -          As subq emphysema improves, consider a repeat echo if still
   concerned for structural heart disease.
   # Resp function: intubated for airway protection after seeing vomit in
   oropharynx.
   - vent precautions
   - continue weaning to pressure support, then check ABG and extubate.
   .
   # Pneumothorax: s/p chest tube.  CT [**Doctor First Name 213**] involved.  To water seal
   today, with 100cc drainage since 6AM.  Will likely be long recuperation
   if multiple contiguous rib fractures have led to damage to chest wall
   dynamics.
   - follow CXR daily
   - CT [**Doctor First Name 213**] to see today
   -bolus fentanyl in small doses to ease pain and aid in weaning
   -pull chest tube once drainage decreases.
   .
   # Rib fractures: pain control
   .
   # HTN: Hold home htn medications initially, but will consider
   restarting them gradually if patient become hypertensive.
   - currently hypotensive, will continue to monitor
   .
   # DM2: holding oral antihyperglycemics. SSI
   .
   # chronic conjunctivitis: cont ocular erythromycin
   .
   # PPx: H2 blocker, bowel regimen, sc heparin
   .
   # Dispo: ICU level care
   .
   # Code: presumed full
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2192-10-28**] 11:21 PM 45 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2192-10-25**] 07:05 PM
   20 Gauge - [**2192-10-25**] 07:05 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2192-10-29 13:27:00 Physician Attending Progress Note
Chief Complaint: Cardiac Arrest
   Pneumothorax
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Chest Tube to water seal
   24 Hour Events:
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Fentanyl - [**2192-10-29**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-10-29**] 01:14 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.2
C (98.9
   HR: 109 (79 - 120) bpm
   BP: 136/70(84) {99/42(56) - 160/77(97)} mmHg
   RR: 27 (13 - 37) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
             Total In:
                                                                  1,554 mL
                                                                    879 mL
   PO:
             TF:
                                                                  1,074 mL
                                                                    654 mL
   IVF:
                                                                    300 mL
                                                                    165 mL
   Blood products:
   Total out:
                                                                    935 mL
                                                                    485 mL
   Urine:
                                                                    885 mL
                                                                    465 mL
   [**Known lastname **]:
   Stool:
   Drains:
   Balance:
                                                                    619 mL
                                                                    394 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 350 (340 - 350) mL
   PS : 8 cmH2O
   RR (Set): 14
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 39
   RSBI Deferred: No Spon Resp
   PIP: 13 cmH2O
   Plateau: 13 cmH2O
   SpO2: 100%
   ABG: ///31/
   Ve: 6 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.2 g/dL
   207 K/uL
   177 mg/dL
   0.7 mg/dL
   31 mEq/L
   4.0 mEq/L
   19 mg/dL
   102 mEq/L
   140 mEq/L
   22.4 %
   8.1 K/uL
        [image002.jpg]
                             [**2192-10-25**]  08:35 PM
                             [**2192-10-26**]  03:02 AM
                             [**2192-10-26**]  04:37 AM
                             [**2192-10-27**]  02:52 AM
                             [**2192-10-27**]  06:13 AM
                             [**2192-10-28**]  04:27 AM
                            [**2192-10-29**]  05:37 AM
   WBC
   11.5
   10.6
   8.2
   8.4
   8.1
   Hct
   32.8
   28.6
   26.1
   25.0
   22.4
   Plt
   232
   219
   201
   153
   207
   Cr
   0.8
   0.7
   0.7
   0.8
   0.7
   TropT
   0.02
   <0.01
   TCO2
   26
   30
   Glucose
   169
   144
   136
   169
   177
   Other labs: PT / PTT / INR:12.9/28.4/1.1, CK / CKMB /
   Troponin-T:354/8/<0.01, ALT / AST:17/24, Alk Phos / T Bili:58/0.3,
   Differential-Neuts:83.7 %, Lymph:11.6 %, Mono:4.1 %, Eos:0.6 %, Lactic
   Acid:1.1 mmol/L, Albumin:3.5 g/dL, LDH:256 IU/L, Ca++:8.0 mg/dL,
   Mg++:1.8 mg/dL, PO4:2.7 mg/dL
   Fluid analysis / Other labs: AG-7
   ABG-Not done
   Assessment and Plan
   [**Age over 90 211**] yo admitted to ICU following cardiac arrest and complicated by
   pneumonthorax and persistent respiratory failure.  The source of his
   original insult remains to be defined but has had minimal evidence of
   myocardial injury or signifiant infectious insult.
 PNEUMOTHORAX, TRAUMATIC-
   -Chest tube to water seal this morning
   -Will get F/U CXR prior to discontinuation
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])-
   -Patient with excellent tolerance of SBT this morning
   -Will move to extubation if pulmonary mechanics look favorable
   -Pain control to continue with Fentanyl at this time
 RIB FRACTURE-
   -Pain control with fentanyl/Tylenol as needed
 .H/O CVA (STROKE, CEREBRAL INFARCTION), HEMORRHAGIC
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2192-10-29**] 09:00 AM 45 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2192-10-25**] 07:05 PM
   20 Gauge - [**2192-10-25**] 07:05 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2192-10-30 04:57:00 Physician Resident Progress Note
Chief Complaint: [**Known lastname **]
   - Extubated, on shovel mask
   - L tracheostomy tube removed
   - Dropped Hct from 25 to 22.4 in AM, repeat Hct in PM was 23 w/Guiaic
   stools- trace positive
   -Hemolysis labs sent
   -CXR showed no change in pneumothorax
   -CT switched to water seal.  Not good variation in level with
   inspiration--> tube continuity with pleura?
   24 Hour Events:
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-10-30**] 04:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.1
C (97
   HR: 81 (79 - 109) bpm
   BP: 119/57(71) {88/38(52) - 147/70(95)} mmHg
   RR: 18 (14 - 27) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
                  Total In:
                                                                  1,032 mL
                  PO:
                  TF:
                                                                    735 mL
   IVF:
                                                                    237 mL
   Blood products:
   Total out:
                                                                    985 mL
                                                                    235 mL
   Urine:
                                                                    845 mL
                                                                    235 mL
   [**Known lastname **]:
   Stool:
   Drains:
   Balance:
                                                                     47 mL
                                                                   -235 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 318 (318 - 350) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 39
   PIP: 14 cmH2O
   Plateau: 13 cmH2O
   SpO2: 96%
   ABG: 7.43/50/98.[**Numeric Identifier 176**]/32/7
   Ve: 8.1 L/min
   PaO2 / FiO2: 245
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube, sub q air
   tracking from face through chest
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Absent), (Left DP pulse: Absent)
   Respiratory / Chest: (Breath Sounds: Wheezes : , Diminished: ), exam
   limited by sub q air.   Wheezes, prolonged expiration phase.
   Abdominal: distended, Non-tender, Bowel sounds present, abdominal
   muscle use during expiration
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing.  Cool extremities, but faint pulses
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Cool, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: pain, Moving all 4 extremities, Sedated, Tone: Normal
   Labs / Radiology
   214 K/uL
   7.4 g/dL
   122 mg/dL
   0.8 mg/dL
   32 mEq/L
   4.2 mEq/L
   23 mg/dL
   102 mEq/L
   139 mEq/L
   22.1 %
   7.5 K/uL
        [image002.jpg]
                             [**2192-10-25**]  08:35 PM
                             [**2192-10-26**]  03:02 AM
                             [**2192-10-26**]  04:37 AM
                             [**2192-10-27**]  02:52 AM
                             [**2192-10-27**]  06:13 AM
                             [**2192-10-28**]  04:27 AM
                            [**2192-10-29**]  05:37 AM
                            [**2192-10-29**]  02:37 PM
                            [**2192-10-30**]  02:32 AM
   WBC
   11.5
   10.6
   8.2
   8.4
   8.1
   7.5
   Hct
   32.8
   28.6
   26.1
   25.0
   22.4
   23
   22.1
   Plt
   232
   219
   201
   153
   207
   214
   Cr
   0.8
   0.7
   0.7
   0.8
   0.7
   0.8
   TropT
   0.02
   <0.01
   TCO2
   26
   30
   34
   Glucose
   169
   144
   136
   169
   177
   122
   Other labs: PT / PTT / INR:12.9/28.4/1.1, CK / CKMB /
   Troponin-T:354/8/<0.01, ALT / AST:13/15, Alk Phos / T Bili:71/0.3,
   Differential-Neuts:83.7 %, Lymph:11.6 %, Mono:4.1 %, Eos:0.6 %, Lactic
   Acid:1.1 mmol/L, Albumin:3.5 g/dL, LDH:157 IU/L, Ca++:7.8 mg/dL,
   Mg++:2.3 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   A/P: [**Age over 90 211**] yo with HTN, DM2, hx of MI/CVA found down at his nursing home
   with apparent cardiac arrest requiring CPR which resulted in rib
   fracture, PTX, chest tubes.
   .
   # ?Cardiac arrest: He was found down and reportedly required CPR.
   However, by EMS arrival, he had a perfusing rhythm.  Unclear how long
   he was down, and if he ever truly arrested.  Possible diagnoses include
   PE, structural disease or event leading to arrhythmia, bradyarrhythmia,
   seizure.  EKG at admission showed RBBB of unclear origin, indicating
   possible structural heart disease.  ECHO unremarkable and showed good
   systolic function, but limited study due to subcutaneous air.  Cardiac
   enzymes did not increase.  Tele monitoring unenlightening.  Unclear why
   this patient arrested or if he ever did
   -          aspirin, continue to monitor
   -          As subq emphysema improves, consider a repeat echo if still
   concerned for structural heart disease.
   # Resp function: intubated for airway protection after seeing vomit in
   oropharynx.
   - vent precautions
   - continue weaning to pressure support, then check ABG and extubate.
   .
   # Pneumothorax: s/p chest tube.  CT [**Doctor First Name 213**] involved.  To water seal
   today, with 100cc drainage since 6AM.  Will likely be long recuperation
   if multiple contiguous rib fractures have led to damage to chest wall
   dynamics.
   - follow CXR daily
   - CT [**Doctor First Name 213**] to see today
   -bolus fentanyl in small doses to ease pain and aid in weaning
   -pull chest tube once drainage decreases.
   .
   # Rib fractures: pain control
   .
   # HTN: Hold home htn medications initially, but will consider
   restarting them gradually if patient become hypertensive.
   - currently hypotensive, will continue to monitor
   .
   # DM2: holding oral antihyperglycemics. SSI
   .
   # chronic conjunctivitis: cont ocular erythromycin
   .
   # PPx: H2 blocker, bowel regimen, sc heparin
   .
   # Dispo: ICU level care
   .
   # Code: presumed full
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2192-10-25**] 07:05 PM
   20 Gauge - [**2192-10-25**] 07:05 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2192-10-30 13:46:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Patient had extubation without event yesterday
   Patient with chest tube discontinued without event as well
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2192-10-30**] 12:56 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Cardiovascular: No(t) Tachycardia
   Respiratory: Tachypnea
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Signs or concerns for abuse : No
   Flowsheet Data as of  [**2192-10-30**] 01:45 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.1
C (96.9
   HR: 89 (79 - 107) bpm
   BP: 110/42(56) {90/38(52) - 147/88(146)} mmHg
   RR: 18 (15 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
                  Total In:
                                                                  1,032 mL
                                                                    150 mL
   PO:
                  150 mL
   TF:
                                                                    735 mL
   IVF:
                                                                    237 mL
   Blood products:
   Total out:
                                                                    985 mL
                                                                    805 mL
   Urine:
                                                                    845 mL
                                                                    805 mL
   [**Known lastname **]:
   Stool:
   Drains:
   Balance:
                                                                     47 mL
                                                                   -655 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 100%
   ABG: 7.43/50/98.[**Numeric Identifier 176**]/32/7
   PaO2 / FiO2: 245
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Rhonchorous: Very diffuse ronchi in all lung
   fields)
Patient did have some evolution of sub-cutaneous air
   Abdominal: Soft, Non-tender
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.4 g/dL
   214 K/uL
   122 mg/dL
   0.8 mg/dL
   32 mEq/L
   4.2 mEq/L
   23 mg/dL
   102 mEq/L
   139 mEq/L
   22.1 %
   7.5 K/uL
        [image002.jpg]
                             [**2192-10-25**]  08:35 PM
                             [**2192-10-26**]  03:02 AM
                             [**2192-10-26**]  04:37 AM
                             [**2192-10-27**]  02:52 AM
                             [**2192-10-27**]  06:13 AM
                             [**2192-10-28**]  04:27 AM
                            [**2192-10-29**]  05:37 AM
                            [**2192-10-29**]  02:37 PM
                            [**2192-10-30**]  02:32 AM
   WBC
   11.5
   10.6
   8.2
   8.4
   8.1
   7.5
   Hct
   32.8
   28.6
   26.1
   25.0
   22.4
   23
   22.1
   Plt
   232
   219
   201
   153
   207
   214
   Cr
   0.8
   0.7
   0.7
   0.8
   0.7
   0.8
   TropT
   0.02
   <0.01
   TCO2
   26
   30
   34
   Glucose
   169
   144
   136
   169
   177
   122
   Other labs: PT / PTT / INR:12.9/28.4/1.1, CK / CKMB /
   Troponin-T:354/8/<0.01, ALT / AST:13/15, Alk Phos / T Bili:71/0.3,
   Differential-Neuts:83.7 %, Lymph:11.6 %, Mono:4.1 %, Eos:0.6 %, Lactic
   Acid:1.1 mmol/L, Albumin:3.5 g/dL, LDH:157 IU/L, Ca++:7.8 mg/dL,
   Mg++:2.3 mg/dL, PO4:3.6 mg/dL
   CXR
evidence of small recurrent pneumonthorax seen on CXR done this
   morning.
   Assessment and Plan
   [**Age over 90 211**] yo male with cardiac arrest and admitted with respiratory failure
   following successful CPR.  He now is extubated with good ventilatory
   stability following extubation yesterday without evidence of flial
   chest.  He today has significant ronchi and may well be evidence of
   either hydrostatic pulmonary edema or non-hydrostatic edema or
   aspiration pneumonitis in the setting of post extubation state.
   1)Respiratory Failure Acute-
   -Likely intubation related to cardiac arrest and now extubated
   following supportive care
   -Will continue to treat empirically for possible pneumonia
   -Chest PT to continue with suctioning PRN
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
 PNEUMOTHORAX, TRAUMATIC
   -Chest tube out
   -Small apical PTX seen on plain film
   -Follow CXR [**Hospital1 7**] to maintain stability
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 RIB FRACTURE
 .H/O CVA (STROKE, CEREBRAL INFARCTION), HEMORRHAGIC
   ICU Care
   Nutrition: to supervised feeds
   Glycemic Control:
   Lines:
   22 Gauge - [**2192-10-30**] 11:45 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU  to floor if stable
   Total time spent: 35

2192-10-31 06:01:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 CHEST TUBE REMOVED - At [**2192-10-30**] 09:05 AM
   chest tube pulled in AM, f/u CXR with small new L apical PTX, repeated
   in the evening
   per family, pt is more disoriented, not himself but denied pain
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2192-10-30**] 12:56 PM
   Heparin Sodium (Prophylaxis) - [**2192-10-30**] 10:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-10-31**] 06:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.9
C (98.5
   HR: 75 (75 - 105) bpm
   BP: 112/49(64) {101/42(56) - 142/87(146)} mmHg
   RR: 15 (15 - 33) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
                  Total In:
                                                                    260 mL
                  PO:
                                                                    260 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                  1,835 mL
                                                                    295 mL
   Urine:
                                                                  1,835 mL
                                                                    295 mL
   [**Known lastname **]:
   Stool:
   Drains:
   Balance:
                                                                 -1,575 mL
                                                                   -295 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///33/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube, sub q air
   tracking from face through chest
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Absent), (Left DP pulse: Absent)
   Respiratory / Chest: (Breath Sounds: Wheezes : , Diminished: ), exam
   limited by sub q air.   Wheezes, prolonged expiration phase.
   Abdominal: distended, Non-tender, Bowel sounds present, abdominal
   muscle use during expiration
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing.  Cool extremities, but faint pulses
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Cool, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: pain, Moving all 4 extremities, Sedated, Tone: Normal
   Labs / Radiology
   259 K/uL
   7.7 g/dL
   125 mg/dL
   0.7 mg/dL
   33 mEq/L
   4.1 mEq/L
   17 mg/dL
   99 mEq/L
   140 mEq/L
   24.0 %
   8.7 K/uL
        [image002.jpg]
                             [**2192-10-25**]  08:35 PM
                             [**2192-10-26**]  03:02 AM
                             [**2192-10-26**]  04:37 AM
                             [**2192-10-27**]  02:52 AM
                             [**2192-10-27**]  06:13 AM
                             [**2192-10-28**]  04:27 AM
                            [**2192-10-29**]  05:37 AM
                            [**2192-10-29**]  02:37 PM
                            [**2192-10-30**]  02:32 AM
                            [**2192-10-31**]  03:00 AM
   WBC
   11.5
   10.6
   8.2
   8.4
   8.1
   7.5
   8.7
   Hct
   32.8
   28.6
   26.1
   25.0
   22.4
   23
   22.1
   24.0
   Plt
   232
   219
   201
   153
   207
   214
   259
   Cr
   0.8
   0.7
   0.7
   0.8
   0.7
   0.8
   0.7
   TropT
   0.02
   <0.01
   TCO2
   26
   30
   34
   Glucose
   169
   144
   136
   169
   177
   122
   125
   Other labs: PT / PTT / INR:12.9/28.4/1.1, CK / CKMB /
   Troponin-T:354/8/<0.01, ALT / AST:13/15, Alk Phos / T Bili:71/0.3,
   Differential-Neuts:83.7 %, Lymph:11.6 %, Mono:4.1 %, Eos:0.6 %, Lactic
   Acid:1.1 mmol/L, Albumin:3.5 g/dL, LDH:157 IU/L, Ca++:8.3 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   A/P: [**Age over 90 211**] yo with HTN, DM2, hx of MI/CVA found down at his nursing home
   with apparent cardiac arrest requiring CPR which resulted in rib
   fracture, PTX, chest tubes.
   .
   # ?Cardiac arrest: He was found down and reportedly required CPR.
   However, by EMS arrival, he had a perfusing rhythm.  Unclear how long
   he was down, and if he ever truly arrested.  Possible diagnoses include
   PE, structural disease or event leading to arrhythmia, bradyarrhythmia,
   seizure.  EKG at admission showed RBBB of unclear origin, indicating
   possible structural heart disease.  ECHO unremarkable and showed good
   systolic function, but limited study due to subcutaneous air.  Cardiac
   enzymes did not increase.  Tele monitoring unenlightening.  Unclear why
   this patient arrested or if he ever did
   -          aspirin, continue to monitor
   -          As subq emphysema improves, consider a repeat echo if still
   concerned for structural heart disease.
   # Resp function: intubated for airway protection after seeing vomit in
   oropharynx.
   - vent precautions
   - continue weaning to pressure support, then check ABG and extubate.
   .
   # Pneumothorax: s/p chest tube.  CT [**Doctor First Name 213**] involved.  To water seal
   today, with 100cc drainage since 6AM.  Will likely be long recuperation
   if multiple contiguous rib fractures have led to damage to chest wall
   dynamics.
   - follow CXR daily
   - CT [**Doctor First Name 213**] to see today
   -bolus fentanyl in small doses to ease pain and aid in weaning
   -pull chest tube once drainage decreases.
   .
   # Rib fractures: pain control
   .
   # HTN: Hold home htn medications initially, but will consider
   restarting them gradually if patient become hypertensive.
   - currently hypotensive, will continue to monitor
   .
   # DM2: holding oral antihyperglycemics. SSI
   .
   # chronic conjunctivitis: cont ocular erythromycin
   .
   # PPx: H2 blocker, bowel regimen, sc heparin
   .
   # Dispo: ICU level care
   .
   # Code: presumed full
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2192-10-30**] 11:45 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2192-10-31 10:30:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   Cardiac Arrest
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 CHEST TUBE REMOVED - At [**2192-10-30**] 09:05 AM
 INVASIVE VENTILATION - STOP [**2192-10-31**] 12:05 AM
   Patient with good stability post extubation from respiratory stand
   point
   Has persistent but small pneumothorax
   Patient with intermittent delirum
   Patient with continued diuresis
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2192-10-30**] 12:56 PM
   Heparin Sodium (Prophylaxis) - [**2192-10-31**] 08:26 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Respiratory: Cough
   Heme / Lymph: Anemia
   Flowsheet Data as of  [**2192-10-31**] 10:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 35.7
C (96.2
   HR: 78 (72 - 105) bpm
   BP: 109/49(76) {108/42(56) - 142/87(92)} mmHg
   RR: 33 (13 - 33) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
                  Total In:
                                                                    260 mL
                                                                    360 mL
   PO:
                                                                    260 mL
                                                                    360 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                  1,835 mL
                                                                    395 mL
   Urine:
                                                                  1,835 mL
                                                                    395 mL
   [**Known lastname **]:
   Stool:
   Drains:
   Balance:
                                                                 -1,575 mL
                                                                    -35 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///33/
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.7 g/dL
   259 K/uL
   125 mg/dL
   0.7 mg/dL
   33 mEq/L
   4.1 mEq/L
   17 mg/dL
   99 mEq/L
   140 mEq/L
   24.0 %
   8.7 K/uL
        [image002.jpg]
                             [**2192-10-25**]  08:35 PM
                             [**2192-10-26**]  03:02 AM
                             [**2192-10-26**]  04:37 AM
                             [**2192-10-27**]  02:52 AM
                             [**2192-10-27**]  06:13 AM
                             [**2192-10-28**]  04:27 AM
                            [**2192-10-29**]  05:37 AM
                            [**2192-10-29**]  02:37 PM
                            [**2192-10-30**]  02:32 AM
                            [**2192-10-31**]  03:00 AM
   WBC
   11.5
   10.6
   8.2
   8.4
   8.1
   7.5
   8.7
   Hct
   32.8
   28.6
   26.1
   25.0
   22.4
   23
   22.1
   24.0
   Plt
   232
   219
   201
   153
   207
   214
   259
   Cr
   0.8
   0.7
   0.7
   0.8
   0.7
   0.8
   0.7
   TropT
   0.02
   <0.01
   TCO2
   26
   30
   34
   Glucose
   169
   144
   136
   169
   177
   122
   125
   Other labs: PT / PTT / INR:12.9/28.4/1.1, CK / CKMB /
   Troponin-T:354/8/<0.01, ALT / AST:13/15, Alk Phos / T Bili:71/0.3,
   Differential-Neuts:83.7 %, Lymph:11.6 %, Mono:4.1 %, Eos:0.6 %, Lactic
   Acid:1.1 mmol/L, Albumin:3.5 g/dL, LDH:157 IU/L, Ca++:8.3 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.2 mg/dL
   Imaging: CXR-Small apical PTX on left side at apex without change
   Assessment and Plan
   [**Age over 90 211**] yo male with cardiac arrest and post arrest had significant
   pneumothorax with traumatic rib fractures.  He now has had extubation
   and chest but discontinued.  He has had intermittent agitation and
   confusion consistent with delirium last evening.  This morning he
   retains excellent oxygenation and ventilation and although his cough is
   weak he is able to clear secretions with encouragement and suctioning
   as needed.
   Pneumothorax-
   -CXR daily
   -Surgery following
   Delirium-
   -Re-orentation
   -Minimize sedating medications.
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
 PNEUMOTHORAX, TRAUMATIC
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 RIB FRACTURE
 .H/O CVA (STROKE, CEREBRAL INFARCTION), HEMORRHAGIC
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2192-10-30**] 11:45 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes